US07375087B2
3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[(1E)-2-carboxyvinyl]-2-methylphenyl}methyl)-5-isopropyl-1H-pyrazole
The title compound was prepared in a similar manner to that described in Reference Example 4 using 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-bromo-2-methylphenyl)methyl]-5-isopropyl-1H-pyrazole and acrylic acid instead of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-bromophenyl)methyl]-5-isopropyl-1H-pyrazole and 3-butenoic acid, respectively.

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-bromo-2-methylphenyl)methyl]-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)Br)C)C(C)C | C28H35BrN2O10
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | 3-butenoic acid | C(CC=C)(=O)O | C4H6O2
product | 3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[(1E)-2-carboxyvinyl]-2-methylphenyl}methyl)-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)\C=C\C(=O)O)C)C(C)C | C31H38N2O12
